US08080546B2
Synthesis of 1-(2,6-Difluorophenyl)-4-(4-fluoro-2-methylphenylamino)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one
A mixture of 4-chloro-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (36 mg, 0.1 mmol), tris(dibenzylideneacetone)dipalladium (0) (6 mg, 0.006 mmol), X-Phos (6 mg) and 4-fluoro-2-methylaniline (3 mg, 0.2 mmol) in toluene (3 mL) was treated with sodium t-butoxide (40 mg, 0.4 mmol), and heated to 100° C. for 18 h. After the mixture was cooled to RT, it was evaporated to dryness with some silica gel, and purified by silica gel chromatography to provide the title compound as an off-white crystalline solid. MS (ESI, pos.ion) m/z: 385.1 (M+1).

reactant | 4-chloro-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 0.1 mmol, 36 mg | ClC=1C2=C(N(C(C1)=O)C)N(N=C2)C2=C(C=CC=C2F)F | C13H8ClF2N3O
reactant | X-Phos | 6 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 4-fluoro-2-methylaniline | 0.2 mmol, 3 mg | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | sodium t-butoxide | 0.4 mmol, 40 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.006 mmol, 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(2,6-Difluorophenyl)-4-(4-fluoro-2-methylphenylamino)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | FC1=C(C(=CC=C1)F)N1N=CC2=C1N(C(C=C2NC2=C(C=C(C=C2)F)C)=O)C | C20H15F3N4O
